US06664256B1
Preparation of 3,4-bis(4-methoxyphenyl)-6-(dimethylamino)pyridazine
In a similar manner as in Example 2, 3,4-bis(4-methoxyphenyl)-6-chloropyridazine (140 mg, 0.43 mmol) and a 40% (W/V) aqueous solution of dimethylamine were reacted as starting materials at 45° C. for 30 hours and post-treatment was then conducted, whereby the title compound was obtained as colorless prisms (139 mg, 96.5%). Melting point: 109.6-110.7° C. (ethyl acetate-hexane).

reactant | 3,4-bis(4-methoxyphenyl)-6-chloropyridazine | 0.43 mmol, 140 mg | COC1=CC=C(C=C1)C=1N=NC(=CC1C1=CC=C(C=C1)OC)Cl | C18H15ClN2O2
reactant | dimethylamine | CNC | C2H7N
product | 3,4-bis(4-methoxyphenyl)-6-(dimethylamino)pyridazine | COC1=CC=C(C=C1)C=1N=NC(=CC1C1=CC=C(C=C1)OC)N(C)C | C20H21N3O2
